US08377937B2
Benzyl 4-(chlorocarbonyl)piperazine-1-carboxylate (233 mg, 0.83 mmol) was added at room temperature to a solution of tert-butyl 2-(4-chlorobenzylamino)ethylcarbamate (235 mg, 0.83 mmol) and Hunig's base (0.2 mL, 1.2 mmol, 1.5 eq.) in dichloromethane (1.6 mL). The reaction was allowed to stir overnight. The reaction mixture was then concentrated to the crude product, which was purified by flash column chromatography to afford benzyl 4-((2-(tert-butoxycarbonylamino)ethyl)(4-chlorobenzyl)carbamoyl)piperazine-1-carboxylate as foam (167 mg, 38%). MS (ESI) m/e (M+H+) 531.

reactant | Benzyl 4-(chlorocarbonyl)piperazine-1-carboxylate | 0.83 mmol, 233 mg | ClC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15ClN2O3
reactant | tert-butyl 2-(4-chlorobenzylamino)ethylcarbamate | 0.83 mmol, 235 mg | ClC1=CC=C(CNCCNC(OC(C)(C)C)=O)C=C1 | C14H21ClN2O2
reactant | Hunig's base | 1.2 mmol, 0.2 mL, 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | benzyl 4-((2-(tert-butoxycarbonylamino)ethyl)(4-chlorobenzyl)carbamoyl)piperazine-1-carboxylate | 167 mg, 38% | C(C)(C)(C)OC(=O)NCCN(C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)Cl | C27H35ClN4O5
